US05578733
Using 10.0 g of (±)-1-(cyclohexyloxycarbonyloxy)ethyl 2-ethoxy-1-[2'-(N-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-yl]methylbenzimidazole-7-carboxylate, the reaction and after-treatment of Example 1 was repeated except that ethanol was used in lieu of methanol. The procedure provided 6.83 g of (±)-1-(cyclohexyloxycarbonyloxy)ethyl 2-ethoxy-1-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methylbenzimidazole-7-carboxylate (yield 91%).

reactant | (±)-1-(cyclohexyloxycarbonyloxy)ethyl 2-ethoxy-1-[2'-(N-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-yl]methylbenzimidazole-7-carboxylate | 10.0 g | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=CC=C2)C(=O)OC(C)OC(=O)OC2CCCCC2 | C52H48N6O6
reactant | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | (±)-1-(cyclohexyloxycarbonyloxy)ethyl 2-ethoxy-1-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methylbenzimidazole-7-carboxylate | 6.83 g, yield 91% | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OC(C)OC(=O)OC2CCCCC2 | C33H34N6O6
